### PR TITLE
exponential distribution

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

from the PR on the formalization of probabilistic languages

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/probability.v [hunk 1]
```diff
@@ -1731,3 +1733,181 @@ apply: ge0_le_integral => //=.
...
 
 End normal_probability.
+
+Section exponential_pdf.
+Context {R : realType}.
+Notation mu := lebesgue_measure.
+Variable rate : R.
+Hypothesis rate_gt0 : 0 < rate.
+
+Let exponential_pdf' x := rate * expR (- rate * x).
```
Comment (hoheinzollern) [inline theories/probability.v]: This subdefinition could have a more descriptive name

File: theories/probability.v [hunk 2]
```diff
@@ -1731,3 +1733,181 @@ apply: ge0_le_integral => //=.
...
+by apply: restrict_ge0 => {}x _; apply: mulr_ge0; [exact: ltW|exact: expR_ge0].
+Qed.
+
+Lemma lt0_exponential_pdf x : x < 0 -> exponential_pdf x = 0.
+Proof.
+move=> x0; rewrite /exponential_pdf patchE ifF//.
+by apply/negP; rewrite inE/= in_itv/= andbT; apply/negP; rewrite -ltNge.
+Qed.
+
+Let continuous_exponential_pdf' : continuous exponential_pdf'.
```
Comment (hoheinzollern) [inline theories/probability.v]: Same for this lemma

File: theories/probability.v [hunk 3]
```diff
@@ -1731,3 +1733,181 @@ apply: ge0_le_integral => //=.
...
+  exact: in_continuous_exponential_pdf.
+apply/(@cvgrPdist_le _ R^o) => e e0; near=> t.
+rewrite 2?exponential_pdfE//.
+near: t; move: e e0; apply/cvgrPdist_le.
+by apply: cvg_at_right_filter; exact: continuous_exponential_pdf'.
+Unshelve. end_near. Qed.
+
+End exponential_pdf.
+
+Definition exponential_prob {R : realType} (r : R) :=
```
Comment (hoheinzollern) [inline theories/probability.v]: For consistency I would rename `r` to `rate`

**Review by hoheinzollern — APPROVED** [review]
Looking good, only minor edits suggested

File: theories/probability.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/probability.v]: Used `T` as a suffix to suggest the function is total.
